US07696231B2
b) Preparation of 4-chloro-N-[4-(hydrazinocarbonyl)benzyl]benzamide (Scheme 2, compound B)
To a suspension of methyl 4-{[(4-chlorobenzoyl)amino]methyl}benzoate (303 mg, 1.0 mmol) in EtOH (6 mL) was added hydrazine hydrate (1.0 mL). After stirring for 15 h at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with water (3×2 mL) and drying under vacuo at 60° C. for 2 hrs gave 213 mg of the title compound (70%) as a white solid in 96.5% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-{[(4-chlorobenzoyl)amino]methyl}benzoate | 1.0 mmol, 303 mg | ClC1=CC=C(C(=O)NCC2=CC=C(C(=O)OC)C=C2)C=C1 | C16H14ClNO3
reactant | hydrazine hydrate | 1.0 mL | O.NN
solvent | EtOH | 6 mL | CCO | C2H6O
product | 4-chloro-N-[4-(hydrazinocarbonyl)benzyl]benzamide | 213 mg, 70% | ClC1=CC=C(C(=O)NCC2=CC=C(C=C2)C(=O)NN)C=C1 | C15H14ClN3O2
